US07470691B2
2-{[4-(2-methoxyphenyl)-1-piperazinyl]methyl}-1H-pyrrolo[2,3-b]pyridine
1H-pyrrolo[2,3-b]pyridine (47 mg, 0.40 mmol), 1-(2-methoxyphenyl)piperazine (65 mg, 0.48 mmol), sodium acetate (72 mg, 0.53 mmol), and formaldehyde (0.48 mmol) were processed as described in Example 18 to provide the title compound. 1H NMR (300 MHz, DMSO-d6) δ 2.97 (m, 4H) 3.68 (m, 4H) 3.72 (s, 3H) 4.05 (s, 2H) 5.60 (m, 1H) 6.60 (m, 1H), 6.89 (m, 2H) 7.08 (ddd, J=21.36, 7.80, 4.75 Hz, 1H) 7.52 (m, 2H) 8.07 (m, 2H) (ESI) m/z 323 (M+H)+.

reactant | 1H-pyrrolo[2,3-b]pyridine | 0.40 mmol, 47 mg | N1C=CC=2C1=NC=CC2 | C7H6N2
reactant | 1-(2-methoxyphenyl)piperazine | 0.48 mmol, 65 mg | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | sodium acetate | 0.53 mmol, 72 mg | C(C)(=O)[O-].[Na+]
reactant | formaldehyde | 0.48 mmol | C=O | CH2O
product | 2-{[4-(2-methoxyphenyl)-1-piperazinyl]methyl}-1H-pyrrolo[2,3-b]pyridine | COC1=C(C=CC=C1)N1CCN(CC1)CC1=CC=2C(=NC=CC2)N1 | C19H22N4O
